*
* NGSPICE simulation script
* BJT amp with feedback
*

* forces current values to be saved
.options savecurrents


* resistors
R1 1 2 1.00933568836
R2 2 3 2.0029710407
R3 2 4 3.10902902068
R4 0 4 4.13001338156
R5 4 5 3.10840903174
R6 0 6 2.07407526395
R7 6 7 1.04985237166

* voltage source
Va 1 0 5.09749812451

* current source
Id 7 5 1.04885339412

* voltage-controlled current source
Gb 5 3 (2,3) 7.12347298707

* current-controlled voltage source
Hc 4 7 R6 8.31335357268


.control

*makes plots in color
set hcopypscolor=0
set color0=white
set color1=black
set color2=red
set color3=blue
set color4=violet
set color5=rgb:3/8/0
set color6=rgb:4/0/0

op

echo "********************************************"
echo  "Operating point"
echo "********************************************"
*print Vcc
*print @Q1[ic]
*print @Rf[i]

echo  "op_TAB"
print all
echo  "op_END"


quit
.endc

.end
